US05120843
2-Chloro-5-nitropyridine (25 g) is dissolved in acetonitrile (150 ml) and the mixture is added dropwise over 30 min to a stirred suspension of piperizine (61.3 g) and potassium carbonate (26.2 g) in acetonitrile (550 ml). The reaction mixture is stirred at 20°-25° for 16 hr. The solvent is removed on a rotary evaporator and the residue is diluted with methylene chloride/water. The organic layer is separated and washed with water (twice) and saline, dried over potassium carbonate and concentrated to give 1-(5-nitro-2-pyridinyl)-piperazine, IR 3338, 3102, 3068, 1603, 1570, 1482, 1347, 1340, 1320, 1306 and 1253 cm-1.

reactant | 2-Chloro-5-nitropyridine | 25 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | piperizine | 61.3 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 26.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 550 ml | C(C)#N | C2H3N
product | 1-(5-nitro-2-pyridinyl)-piperazine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCNCC1 | C9H12N4O2
